US07518000B2
A mixture of benzimidazole (10.0 g, 84.6 mmol), benzyl chloromethylether (5.9 mL, 42 mmol), and acetonitrile is heated at reflux for 6 hours. The solvent is removed under reduced pressure, the resulting slurry taken up in dichloromethane, and washed with water. The organic layer is dried over magnesium sulfate and concentrated under reduced pressure. The crude material is chromatographed on silica, eluting with 9:1 ethyl acetate/dichloromethane, to give an orange solid. The product is chromatographed a second time on silica, eluting with 8:2 ethyl acetate/dichloromethane, to give an orange solid. Trituration of the solid with ether gives 1-benzyloxymethyl-1H-benzimidazole as a beige solid.

reactant | benzimidazole | 84.6 mmol, 10.0 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | benzyl chloromethylether | 42 mmol, 5.9 mL | C(C1=CC=CC=C1)C(Cl)OC(CC1=CC=CC=C1)Cl | C16H16Cl2O
reactant | acetonitrile | C(C)#N | C2H3N
reactant | ether | CCOCC | C4H10O
product | 1-benzyloxymethyl-1H-benzimidazole | C(C1=CC=CC=C1)OCN1C=NC2=C1C=CC=C2 | C15H14N2O
